US07576215B2
Preparation of ([4-(4-methoxyphenyl)-8-(trifluoromethyl)quinolin-3-yl(phenyl) methanone).
A solution of 3-benzoyl-8-(trifluoromethyl)quinolin-4-yl trifluoromethanesulfonate (1.8 g, 4 mmol), 4-methoxyphenylboronic acid(1.0 g, 6.5 mmol), and K3PO4(3.0 g) in dioxane (50 ml) was heated to reflux. After, 4 hr, the reaction was cooled, filtered, concentrated to give an oil which was purified by column chromatography (eluent 10% EtOAc/Hex) to give a white solid (1.3 g Yield=81%); MS (ESI) m/z 408 ([M+H]+;

reactant | 3-benzoyl-8-(trifluoromethyl)quinolin-4-yl trifluoromethanesulfonate | 4 mmol, 1.8 g | FC(S(=O)(=O)OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C1=CC=CC=C1)=O)(F)F | C18H9F6NO4S
reactant | 4-methoxyphenylboronic acid | 6.5 mmol, 1.0 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K3PO4 | 3.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(4-methoxyphenyl)-8-(trifluoromethyl)quinolin-3-yl(phenyl) methanone | Yield=81% | COC1=CC=C(C=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C24H16F3NO2
